US07319104B2
2-Methyl-2-{4-[2-([4-(trifluoromethyl)benzyl]{5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}propanoic acid
Similarly prepared by condensation of tert-butyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate with 4-trifluoromethylbenzoyl chloride, followed by standard TFA hydrolysis.

reactant | tert-butyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | N\C(=N/O)\N(CCC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C25H32F3N3O4
reactant | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Methyl-2-{4-[2-([4-(trifluoromethyl)benzyl]{5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}propanoic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)CCN(C1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F | C29H25F6N3O4
